US06699904B2
A solution of 3-(4-{2-[3-(2,4-difluoro-phenyl)-1-heptyl-ureido]-ethyl}-phenyl)-2-ethoxy-propionic acid methyl ester (44 mg, 0.087 mmol) and 1 M LiOH (0.26 mmol, 0.26 mL) in tetrahydrofuran (2 mL) was allowed to stir at room temperature for 94 hours. The solution was quenched by the addition of 2 N HCL until the solution had a pH<2. After dilution with twice its volume in water, the aqueous layer was extracted with diethyl ether (2×). The organic layers were combined, washed with 2 M HCl (2×), dried over anhydrous sodium sulfate, and concentrated to a crude oil. The oil was chromatographed on silica gel (15% methanol/methylene chloride) to give 3-(4-{2-[3-(2,4-difluoro-phenyl)-1-heptyl-ureido]-ethyl}-phenyl)-2-ethoxy-propionic acid as a white waxy-solid (26.3 mg, 62%).

reactant | 3-(4-{2-[3-(2,4-difluoro-phenyl)-1-heptyl-ureido]-ethyl}-phenyl)-2-ethoxy-propionic acid methyl ester | 0.087 mmol, 44 mg | COC(C(CC1=CC=C(C=C1)CCN(C(=O)NC1=C(C=C(C=C1)F)F)CCCCCCC)OCC)=O | C28H38F2N2O4
reactant | LiOH | 0.26 mmol, 1 M, 0.26 mL | [Li+].[OH-]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 3-(4-{2-[3-(2,4-difluoro-phenyl)-1-heptyl-ureido]-ethyl}-phenyl)-2-ethoxy-propionic acid | 26.3 mg, 62% | FC1=C(C=CC(=C1)F)NC(N(CCCCCCC)CCC1=CC=C(C=C1)CC(C(=O)O)OCC)=O | C27H36F2N2O4
